US07332483B2
3-[5-(3,5-Difluorobenzamido)-2-methylphenyl]-6-(4-methylhomopiperazin-1-yl)-3,4-dihydroquinazolin-4-one
Using an analogous procedure to that described in Example 5, 3-(5-amino-2-methylphenyl)-6-(4-methylhomopiperazin-1-yl)-3,4-dihydroquinazolin-4-one was reacted with 3,5-difluorobenzoyl chloride to give the title compound; NMR Spectrum: (DMSOd6) 1.84-1.96 (m, 2H), 2.05 (s, 3H), 2.25 (s, 3H), 2.42-2.5 (m, 2H), 2.62-2.64 (m, 2H), 3.53 (t, 2H), 3.58-3.64 (m, 2H), 7.24 (d, 1H), 7.38 (m, 1H), 7.40-7.44 (m, 1H), 7.48-7.54 (m, 1H), 7.58 (d, 1H), 7.64-7.67 (m, 2H), 7.75-7.78 (m, 2H), 7.96 (s, 1H), 10.49 (s, 1H); Mass Spectrum: M+H+ 504.

reactant | 3-(5-amino-2-methylphenyl)-6-(4-methylhomopiperazin-1-yl)-3,4-dihydroquinazolin-4-one | NC=1C=CC(=C(C1)N1C=NC2=CC=C(C=C2C1=O)N1CCN(CCC1)C)C | C21H25N5O
reactant | 3,5-difluorobenzoyl chloride | FC=1C=C(C(=O)Cl)C=C(C1)F | C7H3ClF2O
product | 3-[5-(3,5-Difluorobenzamido)-2-methylphenyl]-6-(4-methylhomopiperazin-1-yl)-3,4-dihydroquinazolin-4-one | FC=1C=C(C(=O)NC=2C=CC(=C(C2)N2C=NC3=CC=C(C=C3C2=O)N2CCN(CCC2)C)C)C=C(C1)F | C28H27F2N5O2
